US07371772B2
Under argon atmosphere, a mixture of methyl 8-bromo-1-isobutyl-1,2,3,4-tetrahydro-1-benzazocine-5-carboxylate (1.3 g), 4-(2-butoxyethoxy)phenyl boric acid (1.07 g) and potassium carbonate (1.02 g) in toluene-ethanol-water (40-4-4 ml) was stirred at room temperature for 1 hour. To the reaction system was added tetrakis(triphenylphosphine)-palladium (0.21 g), and the mixture was refluxed for 5 hours. After cooling to room temperature, water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried with magnesium sulfate. After concentration under reduced pressure, the residue was separated to purify by column chromatography (ethyl acetate:hexane=1:49→1:19→1:9) to give methyl 1-isobutyl-8-[4-(2-propoxyethoxy)phenyl]-1,2,3,4-tetrahydro-1-benzazocine-5-carboxylate (1.20 g) as a yellow oily material.

reactant | methyl 8-bromo-1-isobutyl-1,2,3,4-tetrahydro-1-benzazocine-5-carboxylate | 1.3 g | BrC=1C=CC2=C(C=C(CCCN2CC(C)C)C(=O)OC)C1 | C17H22BrNO2
reactant | 4-(2-butoxyethoxy)phenyl boric acid | 1.07 g | C(CCC)OCCOC1=CC=C(C=C1)OB(O)O | C12H19BO5
reactant | potassium carbonate | 1.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | toluene-ethanol water | C=1(C(=CC=CC1)CCO)C.O
catalyst | tetrakis(triphenylphosphine)-palladium | 0.21 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | methyl 1-isobutyl-8-[4-(2-propoxyethoxy)phenyl]-1,2,3,4-tetrahydro-1-benzazocine-5-carboxylate | 1.20 g | C(C(C)C)N1CCCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCOCCC)C(=O)OC | C28H37NO4
